US08445696B2
A 1600 L reactor was charged with 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one (113.1 kg, 396 mol), evacuated and filled with nitrogen. Trifluoroacetic acid (679 kg) was added in two portions over 20 minutes and the internal temperature was lowered to 10° C. over 1 h. Triethylsilane (69.2 kg, 595 mol) was added over 2 h 05 min at 10-11° C. and the mixture was stirred for a further 0.5 h at 10-11° C. A 1000 L reactor was charged with heptane (524 kg) and tert-butyl methyl ether (63 kg). The contents of the 1000 L reactor were transferred to the 1600 L reactor over 13 minutes at an internal temperature of 10-11° C. The resultant yellow-orange suspension was allowed to warm to 23° C. over 1 h. The solid was collected by filtration, washed with heptane (464 kg) followed by tert-butyl methyl ether (57 kg) and dried at 50° C. under a reduced pressure of 58 to 7 mbar over a period of 25 h to afford 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one (82.8 kg, 75%) as an off-white solid: purity (HPLC-UV at 300 nm) 98.0% a/a; 1H NMR (300 MHz, DMSO-d6) δ10.40 (s, 1H), 9.25 (s, 1H), 7.17-7.10 (m, 1H), 6.95-6.81 (m, 3H), 6.55 (s, 1H), 6.43 (s, 1H), 5.92-5.85 (m, 2H), 4.66 (s, 1H); 13C NMR (75 MHz, DMSO-d6) δ177.9, 150.1, 146.6, 142.7, 139.6, 130.9, 127.4, 123.8, 121.2, 115.9, 109.5, 109.0, 100.7, 97.8, 55.0.

reactant | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | 396 mol, 113.1 kg | OC1(C(NC2=CC=CC=C12)=O)C1=CC2=C(OCO2)C=C1O | C15H11NO5
reactant | Triethylsilane | 595 mol, 69.2 kg | C(C)[SiH](CC)CC | C6H16Si
reactant | heptane | 524 kg | CCCCCCC | C7H16
solvent | tert-butyl methyl ether | 63 kg | COC(C)(C)C | C5H12O
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | 82.8 kg, 75% | OC=1C(=CC2=C(OCO2)C1)C1C(NC2=CC=CC=C12)=O | C15H11NO4
